US04661438
3-Chloronaphth[2,1-c]-1,2,5-oxatellurazole
Tellurium dioxide (80 g, 0.5 mole) was dissolved in concentrated hydrochloric acid (200 ml, 2.0 moles) with stirring. When solution was complete, a suspension of hydroxylamine hydrochloride (69 g, 1.0 mole) in ethyl alcohol (300 ml) was added. When all solid was dissolved, α-tetralone (73 g, 0.5 mole) in ethyl alcohol (1200 ml) was added. The clear reaction mixture rapidly turned red and dark crystals began to form within an hour. After the reaction mixture had been kept five days at room temperature, the product was isolated by room temperature, the product was isolated by filtration and dried in a vacuum. Yield 123.2 g.

reactant | Tellurium dioxide | 0.5 mole, 80 g | [Te](=O)=O | O2Te
reactant | hydrochloric acid | 2.0 moles, 200 ml | Cl | ClH
reactant | hydroxylamine hydrochloride | 1.0 mole, 69 g | Cl.NO
reactant | α-tetralone | 0.5 mole, 73 g | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
solvent | ethyl alcohol | 300 ml | C(C)O | C2H6O
solvent | ethyl alcohol | 1200 ml | C(C)O | C2H6O
product | 3-Chloronaphth[2,1-c]-1,2,5-oxatellurazole | Cl[TeH]1ONC2=C1C=CC1=CC=CC=C12 | C10H8ClNOTe
